US04327221
3-Acetoxy-2-phenyl-5-carbethoxymethylthiazolo[2,3-b]thiazolium bromide
A mixture of 10.0 g (0.05 m.) 2-mercapto-thiazole-4-acetic acid, ethyl ester (prepared according to U.S. Pat. No. 2,766,238) and 10.75 g. (0.05 m.) α-bromophenylacetic acid in 200 ml. of acetone and 20 ml. each of glacial acetic acid and acetic anhydride is heated in an open flask for two hours. The solvents are removed and the residual solid triturated with acetone. 12 g. of title product is obtained, m.p. 160°-170° C. (dec.).

reactant | 2-mercapto-thiazole-4-acetic acid, ethyl ester | 10.0 g | SC=1SC=C(N1)CC(=O)OCC | C7H9NO2S2
reactant | α-bromophenylacetic acid | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
reactant | acetone | CC(=O)C | C3H6O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Acetoxy-2-phenyl-5-carbethoxymethylthiazolo[2,3-b]thiazolium bromide | [Br-].C(C)(=O)OC1=C(SC=2SC=C([N+]21)CC(=O)OCC)C2=CC=CC=C2 | InChI=1S/C17H16NO4S2.BrH/c1-3-21-14(20)9-13-10-23-17-18(13)16(22-11(2)19)15(24-17)12-7-5-4-6-8-12;/h4-8,10H,3,9H2,1-2H3;1H/q+1;/p-1
